US07622583B2
To a stirred solution of N-(2-Bromo-5-chloro-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (459 mg, 1.00 mmol) in anhydrous THF (5 mL) at −10° C. was added 2 M isopropylmagnesium chloride in THF (1.1 mL, 2.2 mmol) and stirred at the same temperature for 30 min. 2-Fluoro-6-methoxy-benzaldehyde (308 mg, 2.00 mmol) was subsequently added in one portion, and the reaction mixture was warmed to room temperature and stirred overnight (18 h). It was then quenched with saturated aqueous NH4Cl (10 mL), and extracted with EtOAc (3×75 mL). The combined extracts were washed with aqueous NaHCO3 and brine, dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel using ethyl acetate-hexane to provide N-{5-chloro-2-[(2-fluoro-6-methoxy-phenyl)-hydroxy-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide. MS m/z 535.4 (M+H).

reactant | N-(2-Bromo-5-chloro-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1.00 mmol, 459 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)COC)Cl | C14H11BrClF3N2O3S
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | 2-Fluoro-6-methoxy-benzaldehyde | 2.00 mmol, 308 mg | FC1=C(C=O)C(=CC=C1)OC | C8H7FO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.2 mmol, 1.1 mL | C1CCOC1 | C4H8O
product | N-{5-chloro-2-[(2-fluoro-6-methoxy-phenyl)-hydroxy-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC=1C=C(C(=NC1)C(O)C1=C(C=CC=C1OC)F)N(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)COC | C22H19ClF4N2O5S
